US09340546B2
Step 3: 2-amino-6-fluoro-N-(5-fluoro-4-(4-(4-(oxetan-3-yl)piperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (compound I-G-32)
To a solution of 1-(oxetan-3-yl)piperazine (525 mg, 3.69 mmol) in THF (12 ml) was added DIPEA (1.72 ml, 9.91 mmol), followed by 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carboxylic acid (hydrochloride salt, 1.5 g, 3.3 mmol). [(6-chlorobenzotriazol-1-yl)oxy-(dimethylamino)methylene]-dimethyl-ammonium tetrafluoroborate (TCTU, 1.29 g, 3.64 mmol) was added and the mixture stirred under nitrogen until reaction completion (determined by HPLC analysis). The mixture was cooled and water (24 ml) was added dropwise. The mixture was allowed to warm to ambient and stirred for 3 hrs, then filtered. The filter cake was washed with (3×3 ml). The damp cake was dried under vacuum (with a nitrogen bleed) at 40° C. The product was obtained as a yellow solid (1.54 g, 86%); 1H NMR (500 MHz, DMSO-d6) δ 10.64 (s, 1H), 9.67 (s, 1H), 9.48 (dd, 1H), 9.26 (dd, 1H), 8.26 (d, 1H), 6.79 (s, 2H), 4.55 (t, 2H), 4.47 (t, 2H), 4.34 (t, 0.7H), 3.61 (dt, 4H), 3.48-3.41 (m, 2.5H), 3.22-3.17 (m, 2H), 3.05-3.03 (m, 2H), 3.99-2.93 (m, 1H), 2.28 (dt, 4H), 2.17-2.10 (m, 2H), 1.74 (d, 2H), 1.07 (t, 2H); 19F NMR (500 MHz, DMSO-d6) δ −152.8, −136.1; MS (ES+) 542.3.

reactant | 1-(oxetan-3-yl)piperazine | 3.69 mmol, 525 mg | O1CC(C1)N1CCNCC1 | C7H14N2O
reactant | DIPEA | 9.91 mmol, 1.72 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-5-fluoropyridin-4-yl)piperidine-4-carboxylic acid | 3.3 mmol, 1.5 g | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)O)F | C18H17F2N7O3
reactant | [(6-chlorobenzotriazol-1-yl)oxy-(dimethylamino)methylene]-dimethyl-ammonium tetrafluoroborate | 3.64 mmol, 1.29 g | F[B-](F)(F)F.ClC=1C=CC2=C(N(N=N2)OC(N(C)C)=[N+](C)C)C1
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 24 ml | O | H2O
product | 2-amino-6-fluoro-N-(5-fluoro-4-(4-(4-(oxetan-3-yl)piperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 1.54 g, 86% | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)N1CCN(CC1)C1COC1)F | C25H29F2N9O3
